US06294580B1
3-methoxymethyl-5-methyl-2-phenyl-3H-imidazole
To a solution of 1.0 g (6.32 mmol) of 4-methyl-2-phenylimidazole in 25 mL of DMF at 0° C. was added 278 mg (6.95 mmol, 60% in oil) of NaH. After stirring for 5 min, 0.528 mL (6.95 mmol) of chloromethyl methyl ether was added, and the reaction was warmed to 25° C. and stirred 4 h. The reaction was poured into H2O, and the product was extracted with hexanes/EtOAc (1:1). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by silica gel flash column chromatography using hexanes/EtOAc (5:95) as eluent provided 816 mg (64%) of title compound: low resolution MS (ES) m/e 225 (MNa+), 203 (MH+).

reactant | 4-methyl-2-phenylimidazole | 6.32 mmol, 1.0 g | CC=1N=C(NC1)C1=CC=CC=C1 | C10H10N2
reactant | NaH | 6.95 mmol, 278 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 6.95 mmol, 0.528 mL | COCCl | C2H5ClO
reactant | H2O | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-methoxymethyl-5-methyl-2-phenyl-3H-imidazole | 816 mg, 64% | COCN1C(=NC(=C1)C)C1=CC=CC=C1 | C12H14N2O
